US07608627B2
To an ice-cold solution of tert-butyl[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]ethyl]methylcarbamate (4.3 g, 13=mmol) in CH2Cl2/MeOH (8:2, 90 mL) was added methylhydrazine (3.2 mL, 60 mmol) dropwise. The stirred reaction mixture was allowed to warm to ambient temperature. After 1.5 h, the reaction mixture was concentrated under reduced pressure. To the residue was added CH2Cl2 (35 mL) and the resulting white solid was collected by vacuum filtration. The filtrate was concentrated and purified by column chromatography (silica gel, 50:50 hexanes/EtOAc to 35:65 hexanes/EtOAc) to afford tert-butyl[2-(aminooxy)ethyl]methylcarbamate (2.3 g, 90%) as a yellow oil: 1H NMR (500 MHz, CDCl3) δ 1.46 (9H, s), 1.82-1.98 (1H, m), 2.88 (3H, br s), 3.44-3.46 (2H, m), 3.74 (2H, t, J=5.3 Hz), 5.44-5.77 (2H, m).

reactant | tert-butyl[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]ethyl]methylcarbamate | 4.3 g | C(C)(C)(C)OC(N(C)CCON1C(C2=CC=CC=C2C1=O)=O)=O | C16H20N2O5
reactant | methylhydrazine | 60 mmol, 3.2 mL | CNN | CH6N2
solvent | CH2Cl2 MeOH | 90 mL | C(Cl)Cl.CO
product | tert-butyl[2-(aminooxy)ethyl]methylcarbamate | 2.3 g, 90% | C(C)(C)(C)OC(N(C)CCON)=O | C8H18N2O3
